US05496951
40 ml of thionyl chloride were added to a solution of 15.97 g (0.056 moles) of 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoic acid [(XII), R1 =--OCHF2, R3' =NO2, X=X'=F] in 50 ml of benzene, and the mixture was heated under reflux for 2 hours. At the end of this time, the benzene and the excess thionyl chloride were removed by distillation under reduced pressure to give 16.50 g of 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl chloride [(XIII), R1 =--OCHF2, R3' =NO2, X=X'=F].

reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoic acid | 0.056 moles, 15.97 g | FC(OC=1C(=C(C(=O)O)C(=C(C1F)F)[N+](=O)[O-])F)F | C8H2F5NO5
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl chloride | 16.50 g | FC(OC=1C(=C(C(=O)Cl)C(=C(C1F)F)[N+](=O)[O-])F)F | C8HClF5NO4
